US07423185B2
(4′-{2-[(1S,2R)-2-Hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2′,6′-dimethylbiphenyl-4-yloxy)acetic acid (compound 2)
A 1 mol/L aqueous solution of sodium hydroxide (0.81 mL) was added to a mixture of ethyl (4′-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2′,6′-dimethyl biphenyl-4-yloxy)acetate (0.16 g), water (1 mL) and 1,4-dioxane (2 mL), and the mixture was stirred at room temperature overnight. 1 mol/L hydrochloric acid (0.81 mL) was added to the reaction mixture, and the organic solvent was evaporated under reduced pressure. The precipitate was collected by filtration to afford the title compound (0.12 g) as a pale yellow amorphous. The structure and physical data were shown in table 1.

reactant | sodium hydroxide | 0.81 mL | [OH-].[Na+]
reactant | ethyl (4′-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2′,6′-dimethyl biphenyl-4-yloxy)acetate | 0.16 g | O[C@@H]([C@H](C)NCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)OCC(=O)OCC)C)C1=CC=C(C=C1)O | C29H35NO6
reactant | water | 1 mL | O | H2O
reactant | hydrochloric acid | 1 mol/L, 0.81 mL | Cl | ClH
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (4′-{2-[(1S,2R)-2-Hydroxy-2-(4-hydroxyphenyl)-1-methylethylamino]ethoxy}-2′,6′-dimethylbiphenyl-4-yloxy)acetic acid | 0.12 g | O[C@@H]([C@H](C)NCCOC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)OCC(=O)O)C)C1=CC=C(C=C1)O | C27H31NO6
